US06664272B2
1,5-Bis-(4-dimethylaminophenyl)-penta-1,4-dien-3-one
To a solution of 1.0 g (17.22 mmol) of acetone and 5.26 g (35.30 mmol) of 4-dimethylamino benzaldehyde in 172 mL of a 0.25M solution of aqueous NaOH (43.05 mmol) was added 2.26 mL (1.72 mmol) of a 25% w/w aqueous solution of cetyltrimethylammonium chloride. The mixture was allowed to stir vigorously at room temperature for 72 hours, diluted with 100 ml of brine and extracted with two 75 mL portions of methylene chloride. The organic phase was dried over anhydrous MgSO4 and concentrated in vacuo. The residue was recrystallized from ethyl acetate to provide 1.21 g (22%) of a dark red powder.

reactant | acetone | 17.22 mmol, 1.0 g | CC(=O)C | C3H6O
reactant | 4-dimethylamino benzaldehyde | 35.30 mmol, 5.26 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | NaOH | 43.05 mmol | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 1,5-Bis-(4-dimethylaminophenyl)-penta-1,4-dien-3-one | 1.21 g, 22% | CN(C1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)N(C)C)=O)C | C21H24N2O
